US09120773B2
In a stream of argon, 1.29 g (5.81 mmol) of 9-phenanthreneboronic acid, 1.20 g (2.42 mmol) of 2-(3,5-dibromophenyl)-4,6-di-p-tolyl-1,3,5-triazine and 67.9 mg (0.097 mmol) of dichlorobis(triphenylphosphine)palladium were suspended in 108 mL of tetrahydrofuran, and the temperature of the obtained suspension was elevated to 70° C. 4.53 mL (18.2 mmol) of an aqueous 4N NaOH solution was gradually added dropwise to the suspension, and the obtained mixture was distilled under reflux for 2 hours. Further, 0.11 g (0.50 mmol) of 9-phenanthreneboronic acid was added, and the obtained mixture was distilled under reflux for 2 hours. The resultant reaction mixture was left to stand to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The thus-obtained crude product was recrystallized from o-xylene to give 0.74 g of the target 2-[3,5-di(9-phenanthryl)-phenyl]-4,6-di-p-tolyl-1,3,5-triazine as grayish white solid (yield: 44%).

reactant | 9-phenanthreneboronic acid | 5.81 mmol, 1.29 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)B(O)O | C14H11BO2
reactant | 2-(3,5-dibromophenyl)-4,6-di-p-tolyl-1,3,5-triazine | 2.42 mmol, 1.20 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C23H17Br2N3
reactant | NaOH | 4N | [OH-].[Na+]
reactant | 9-phenanthreneboronic acid | 0.50 mmol, 0.11 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)B(O)O | C14H11BO2
solvent | tetrahydrofuran | 108 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.097 mmol, 67.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[3,5-di(9-phenanthryl)-phenyl]-4,6-di-p-tolyl-1,3,5-triazine | yield: 44% | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C=1C=C(C=C(C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C51H35N3
